US08236845B2
(2R)-Dimethyl-[5-(1,3,5-trimethyl-1H-pyrazol-4-yl)-1,2,3,4-tetrahydro-naphthalen-2-yl]-amine dihydrochloride
HCl (9.2 mL, 4 M solution in dioxane, 18.51 mmol) was dropwise added to a suspension of (2R)-dimethyl-[5-(1,3,5-trimethyl-1H-pyrazol-4-yl)-1,2,3,4-tetrahydro-naphthalen-2-yl]amine (1.75 g, 6.17 mmol) in Et2O (10 mL). The reaction mixture was stirred at room temperature for 3 h and then the solvent was concentrated off. The resulting solid was suspended in Et2O (25 mL) and concentrated, in order to remove excess of HCl. This operation was done for three times, to give 1.95 g of the title product (Rf=0.2 (10% Et3N/AcOEt), white solid, 99% yield).

reactant | HCl | 18.51 mmol, 4 M, 9.2 mL | Cl | ClH
reactant | (2R)-dimethyl-[5-(1,3,5-trimethyl-1H-pyrazol-4-yl)-1,2,3,4-tetrahydro-naphthalen-2-yl]amine | 6.17 mmol, 1.75 g | CN([C@H]1CC2=CC=CC(=C2CC1)C=1C(=NN(C1C)C)C)C | C18H25N3
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | (2R)-Dimethyl-[5-(1,3,5-trimethyl-1H-pyrazol-4-yl)-1,2,3,4-tetrahydro-naphthalen-2-yl]-amine dihydrochloride | 1.95 g, 99% yield | Cl.Cl.CN([C@H]1CC2=CC=CC(=C2CC1)C=1C(=NN(C1C)C)C)C | InChI=1S/C18H25N3.2ClH/c1-12-18(13(2)21(5)19-12)17-8-6-7-14-11-15(20(3)4)9-10-16(14)17;;/h6-8,15H,9-11H2,1-5H3;2*1H/t15-;;/m1../s1
